### PR TITLE
[Merged by Bors] - feat: custom elaborators for TangentSpace and tangentMap(Within)

### PR DESCRIPTION
**Pull request by grunweg**
And use these to golf the differential geometry files a bit further.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Geometry/Manifold/Notation.lean [hunk 1]
```diff
@@ -915,6 +918,31 @@ scoped elab:max "HasMFDerivAt%" ppSpace
...
+  mkAppM ``tangentMapWithin #[srcI, tgtI, ef, es]
+
+/-- `tangentMap% f` elaborates to `tangentMap I J f`,
+trying to determine `I` and `J` from the local context. -/
+scoped elab:max "tangentMap%" ppSpace f:term:arg : term => do
+  let ef ← ensureIsFunction <|← Term.elabTerm f none
+  let (srcI, tgtI) ← findModels ef none
+  mkAppM ``tangentMap #[srcI, tgtI, ef]
+
+-- TODO: add tests for the three elaborators above!
```
Comment (ocfnash) [inline Mathlib/Geometry/Manifold/Notation.lean]: A comment of the form "TODO add tests" sets off alarm bells for me but maybe this is OK. Do we have tests for other elaborators?

**Review by ocfnash — APPROVED** [review]
Modulo ~15 lines of meta code and a question about tests this is all fine.

We'll need to find another reviewer for the meta code though.

File: Mathlib/Geometry/Manifold/Notation.lean (hunk 1 above)
Comment (grunweg) [reply Mathlib/Geometry/Manifold/Notation.lean]: All the other elaborators (and the underlying mechanism) are very well-tested, so I'm not worried about correctness here. I'm happy to add tests also. I guess Thomas or Patrick might be suitable reviewers for the meta-code. (The implementation is very analogous to the other elaborators.)

Comment (grunweg) [reply Mathlib/Geometry/Manifold/Notation.lean]: I added tests for the three elaborators.

File: Mathlib/Geometry/Manifold/Notation.lean [hunk 2]
```diff
@@ -941,6 +944,29 @@ scoped elab:max "HasMFDerivAt%" ppSpace
   let (srcI, tgtI) ← findModels ef none
   mkAppM ``HasMFDerivAt #[srcI, tgtI, ef, ex, ef']
 
+/-- `TangentSpace% x` elaborates to `TangentSpace I x`,
+trying to determine `I` from the local context. -/
+scoped elab:max "TangentSpace%" ppSpace x:term:arg : term => do
+  let ex ← Term.elabTerm x none
+  let extype ← whnf <| ← instantiateMVars <| ← inferType ex
```
Comment (JovanGerb) [inline Mathlib/Geometry/Manifold/Notation.lean]: Are you sure that you need `whnf` instead of `whnfR`? (or no `whnf` at all?)

File: Mathlib/Geometry/Manifold/Notation.lean [hunk 3]
```diff
@@ -941,6 +944,29 @@ scoped elab:max "HasMFDerivAt%" ppSpace
...
+  let src ← findModel extype
+  mkAppM ``TangentSpace #[src, ex]
+
+/-- `tangentMap[s] f` elaborates to `tangentMapWithin I J f s`,
+trying to determine `I` and `J` from the local context. -/
+scoped elab:max "tangentMap[" s:term "]" ppSpace f:term:arg : term => do
+  let es ← Term.elabTerm s none
+  let ef ← ensureIsFunction <|← Term.elabTerm f none
```
Comment (JovanGerb) [inline Mathlib/Geometry/Manifold/Notation.lean:959]: I think that a better approach than `ensureIsFunction <|← Term.elabTerm _ none` would be to propagate the expected type in the elaboration, and use `elabTermEnsuringType` (which should fill in the function coercion).

But that extra complication need not be part of this PR.

Comment (grunweg) [reply Mathlib/Geometry/Manifold/Notation.lean:959]: Let's leave that to a follow-up PR: if so, all other elaborators should be changed similarly.

File: Mathlib/Geometry/Manifold/Notation.lean (hunk 2 above)
Comment (grunweg) [reply Mathlib/Geometry/Manifold/Notation.lean]: I believe @thorimur was strongly advising to use `whnf` instead of nothing.
We don't use `whnfR` for the same reason as `findModels` (and I would rather prefer to be consistent): the main workhorse method `findModel` for all these elaborators should not see through e.g. `TangentBundle` (which is reducible).

Comment (JovanGerb) [reply Mathlib/Geometry/Manifold/Notation.lean]: > We don't use whnfR for the same reason as findModels

What do you mean? `findModels` does not run `whnf` at all on the expression that is passed to `findModel`.

Comment (grunweg) [reply Mathlib/Geometry/Manifold/Notation.lean]: But the first line of `findModels` is
> let etype ← whnf <| ← instantiateMVars <| ← inferType e

This is what we are mimimicking.

Comment (JovanGerb) [reply Mathlib/Geometry/Manifold/Notation.lean]: There you have a good reason to call `whnf`, namely that you are matching it with `.forallE`. That reason doesn't apply here.

Comment (grunweg) [reply Mathlib/Geometry/Manifold/Notation.lean]: Fair - I've reduced it to `.cleanupAnnotations` instead.
Now, you certainly know more metaprogramming than me, but my understanding is that `findModel` assumes the absence of metadata, annotations, etc. - so adding such a call is good practice for robustness.

I haven't been able to make a good test for this, though. For example, the following (pasted in `Mathlib/DiffGeo/Notation/Basic.lean` after line 980) still fails:
```
example : True := by
  let I' :=
    have := 0
    @id (Type u_4) M
  let x' : I' := x
  letI : TopologicalSpace (id M) := inferInstanceAs (TopologicalSpace M)
  letI : ChartedSpace H (id M) := sorry
  have : TangentSpace% x' := sorry
  exact trivial
```

FWIW, this is Thomas' original review comment leading there: https://github.com/leanprover-community/mathlib4/pull/27021#discussion_r2404704885

Comment (JovanGerb) [reply Mathlib/Geometry/Manifold/Notation.lean]: Yeah, as Thomas said "before matching an Expr structurally", which is e.g. matching it with `.forallE`. Note that `findModels` does not call `cleanupAnnotations` on the expression that it sends to `findModel`. So it would be weird to do that here and not there. And looking more closely at the code, it looks like `findModel` uses `match_expr`, which already cleans up annotations :).

By the way, what do you mean with your example failing? It seems to succeed to me.

Comment (grunweg) [reply Mathlib/Geometry/Manifold/Notation.lean]: Good catch. `findModel` using match_expr is a good argument that this is not necessary here; I'm convinced.

Comment (grunweg) [reply Mathlib/Geometry/Manifold/Notation.lean]: (With "the example failing", I meant: "I was unable to construct a test which fails without the `cleanupAnnotations`, but passes with it". Now I understand why this was so :-))

**Comment by JovanGerb** [comment]
Is your plan to add corresponding delaborators in the future?

**Comment by grunweg** [comment]
> Is your plan to add corresponding delaborators in the future?

Yes - doing this for all elaborators where this is missing is part of @scholzhannah's master's thesis :-)

**Comment by JovanGerb** [comment]
Ok, thanks!

maintainer merge

**Review by ocfnash — APPROVED** [review]
Thanks, sorry we were so slow here!

bors merge
